US03992550
5-Ethyl-2-carboethoxycyclopentanone is reacted with 5-(3-methyl-2-octyl)-resorcinol to produce 1-ethyl-4-oxo-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[c] [1]benzopyran.

reactant | 5-Ethyl-2-carboethoxycyclopentanone | C(C)C1CCC(C1=O)C(=O)OCC | C10H16O3
reactant | 5-(3-methyl-2-octyl)-resorcinol | CC(C(C)C=1C=C(C=C(O)C1)O)CCCCC | C15H24O2
product | 1-ethyl-4-oxo-9-hydroxy-7-(3-methyl-2-octyl)-1,2,3,4-tetrahydrocyclopenta[c] [1]benzopyran | C(C)C1CCC=2C(OC3=C(C21)C(=CC(=C3)C(C)C(CCCCC)C)O)=O | C23H32O3
